US09227918B2
To a solution of 1.11 g (4.70 mmol) of tert-butyl 4-hydroxyphenethylcarbamate in 20 mL of DMF at 22° C. was added 1.3 g (9.4 mmol) of potassium carbonate and 0.700 mL (5.87 mmol) of benzyl bromide. The mixture was stirred for about 16 h at 22° C., diluted with 100 mL of water and extracted with ethyl acetate (3×75 mL). The organic layers were combined, washed with 100 mL of 1 N HCl, dried (Na2SO4), and evaporated. The residue was purified by flash chromatography on silica gel eluting with a mixture of hexane and ethyl acetate to give tert-butyl 4-(benzyloxy)phenethylcarbamate as an oil which later solidified under vacuum. Transformation of tert-butyl 4-(benzyloxy)phenethylcarbamate to tert-butyl 4-(benzyloxy)phenethyl(methyl)carbamate was accomplished in a manner analogous to Method B Step 1.

reactant | tert-butyl 4-hydroxyphenethylcarbamate | 4.70 mmol, 1.11 g | OC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C13H19NO3
reactant | potassium carbonate | 9.4 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 5.87 mmol, 0.700 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | tert-butyl 4-(benzyloxy)phenethylcarbamate | C(C1=CC=CC=C1)OC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C20H25NO3
